US04945099
3-[(4-Acetyl-5-hydroxy-2-ethylphenoxy)-methyl]benzoic acid
A mixture of 1.5 g of 3-[(4-acetyl-5-hydroxy-2-ethyphenoxy)methyl]benzonitrile, 1.14 g of potassium hydroxide, 75 ml of ethanol and 75 ml of water was heated at reflux overnight. The mixture was acidified with hydrochloric acid and extracted with ethyl acetate. The organic layer was extracted with 1N sodium hydroxide. The base layer was acidified with hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated in vacuo providing 1.06 g of the desired title product, m.p.=161°-164° C.

reactant | 3-[(4-acetyl-5-hydroxy-2-ethyphenoxy)methyl]benzonitrile | 1.5 g | C(C)(=O)C1=CC(=C(OCC=2C=C(C#N)C=CC2)C=C1O)CC | C18H17NO3
reactant | potassium hydroxide | 1.14 g | [OH-].[K+]
reactant | ethanol | 75 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
reactant | water | 75 ml | O | H2O
product | 3-[(4-Acetyl-5-hydroxy-2-ethylphenoxy)-methyl]benzoic acid | 1.06 g | C(C)(=O)C1=CC(=C(OCC=2C=C(C(=O)O)C=CC2)C=C1O)CC | C18H18O5
